US08957069B2
1-[2,2-Dimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-4-(4-methoxyphenyl)piperazine
By using 5-bromo-2,2-dimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran (250 mg, 0.788 mmol) synthesized in Reference example 9 and 1-(4-methoxyphenyl)piperazine (455 mg, 2.36 mmol), the reaction was carried out in the same manner as Example 1 to synthesize the title compound 55 mg (yield 16%). Melting point was 187 to 190° C. (ethyl acetate-hexane).

reactant | 5-bromo-2,2-dimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 0.788 mmol, 250 mg | BrC=1C(=CC2=C(CC(O2)(C)C)C1)C1=CC=C(C=C1)C | C17H17BrO
reactant | 1-(4-methoxyphenyl)piperazine | 2.36 mmol, 455 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-[2,2-Dimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-4-(4-methoxyphenyl)piperazine | 55 mg, yield 16% | CC1(OC2=C(C1)C=C(C(=C2)C2=CC=C(C=C2)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C | C28H32N2O2
